US07776847B2
6-Chloro-2-(methythio)benzaldehyde (11.6 g, 75.16 mmol), and hydroxylamine hydrochloride (5.75 g, 82.86 mmol) were combined in ethanol (100 ml). Diethylamide (11.5 ml, 82.86 mmol) was slowly added to the solution and it was allowed to stir at room temperature overnight. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure, diluted with ethyl acetate and then washed successively with water and saturated aqueous sodium bicarbonate solution. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to yield (E)-2-chloro-6-(methylthio)benzaldehyde oxime (12.37 g) as a white solid. (This method is general for other 2-(methythio)benzaldehydes). 1H NMR (300 MHz, DMSO-d6): 11.62 (s, 1H), 8.22 (s, 1H), 7.20-7.40 (m, 3H), 2.41 ppm (s, 3H). MW=202 confirmed by LC-MS, tr=3.58 min (Method B) MH+=203.

reactant | 6-Chloro-2-(methythio)benzaldehyde | 75.16 mmol, 11.6 g | ClC1=CC=CC(=C1C=O)SC | C8H7ClOS
reactant | hydroxylamine hydrochloride | 82.86 mmol, 5.75 g | Cl.NO
reactant | Diethylamide | 82.86 mmol, 11.5 ml | C(C)[N-]CC
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (E)-2-chloro-6-(methylthio)benzaldehyde oxime | 12.37 g | ClC1=C(/C=N/O)C(=CC=C1)SC | C8H8ClNOS
